US09371333B2
3-Amino-1-(3-bromo-4,5-dimethoxy-phenyl)-6-hydroxy-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile (19)
2,8-Quinolinediol (193 mg, 1.2 mmol), 3-bromo-4,5-dimethoxy-benzaldehyde (245 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) were taken in 25 ml ethanol at room temperature, charged with DABCO (33 μl, 0.3 mmol) and then stirred at 90° C. under LC-MS control for 3 days. The reaction mixture was then cooled down to room temperature, diluted with water to about 100 ml and extracted with ethyl acetate (2×50 ml). The organic solution was washed with 5% aqueous sodium bicarbonate solution (2×50 ml) and then dried over magnesium sulfate, solvent was evaporated under vacuum at 40 C and dried (18 mg, 0.04 mmol, 4%).

reactant | 2,8-Quinolinediol | 1.2 mmol, 193 mg | N1=C(C=CC2=CC=CC(=C12)O)O | C9H7NO2
reactant | 3-bromo-4,5-dimethoxy-benzaldehyde | 1 mmol, 245 mg | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | DABCO | 0.3 mmol, 33 μl | C1CN2CCN1CC2 | C6H12N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-Amino-1-(3-bromo-4,5-dimethoxy-phenyl)-6-hydroxy-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile | NC1=C(C(C=2C=CC3=CC=C(N=C3C2O1)O)C1=CC(=C(C(=C1)OC)OC)Br)C#N | C21H16BrN3O4
